US07452894B2
9-(2-Cyclohexylethyl)-6-(2-furyl)-9H-purine-2-amine (Example 54)
A solution of 6-(2-furyl)-1H-purine-2-amine (25 mg, 0.12 mmol) in anhydrous DMF (0.5 mL) and anhydrous THF (2 mL) was treated with triphenylphosphine polystyrene (65 mg, 0.25 mmol) and 2-cyclohexylethanol (35 mg, 0.25 mmol), shaken at room temperature for 10 min, treated with di-tert-butyl azodicarboxylate (0.058 g, 0.25 mmol), shaken at room temperature for 16 h, filtered and concentrated in vacuo. The resulting oil was dissolved in CH2Cl2 (2 mL) and TFA (1 mL), shaken for 2 h and concentrated in vacuo. The resulting oil was dissolved in CH2Cl2 (3 mL), shaken with 1-M aq HCl (1 mL) for 15 min and the organic phase concentrated in vacuo and purified by chromatography (SiO2; EtOAc) to give the title compound (22 mg, 57%) as a yellow solid.

reactant | 6-(2-furyl)-1H-purine-2-amine | 0.12 mmol, 25 mg | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | 2-cyclohexylethanol | 0.25 mmol, 35 mg | C1(CCCCC1)CCO | C8H16O
reactant | di-tert-butyl azodicarboxylate | 0.25 mmol, 0.058 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 9-(2-Cyclohexylethyl)-6-(2-furyl)-9H-purine-2-amine | 22 mg, 57% | C1(CCCCC1)CCN1C2=NC(=NC(=C2N=C1)C=1OC=CC1)N | C17H21N5O
